US08071588B2
A mixture of N-[(3-bromo-4-chlorophenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}propanediamide (1.06 g, 1.791 mmol), (3-formylphenyl)boronic acid (0.330 g, 2.2 mmol), tetrakis (triphenylphosphine) palladium (0) (0.092 g, 0.08 mmol), sodium carbonate (0.212 g, 2.0 mmol) in 1,4-dioxane (12 mL) and water (4 mL) was microwaved at 140° C. for 30 min. The reaction mixture was diluted with water and EtOAc; layers were separated. The aqueous phase was re-extracted with EtOAc. The combined organic extracts were dried over Na2SO4 and evaporated to a residue. This residue was purified on the Chromatotron on silica gel (2000u) eluting with CH2Cl2 (3-6% MeOH) to give N-[(6-chloro-3′-formyl-3-biphenylyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}propanediamide (752.4 mg, 68.1%) as a glassy solid. LC-MS m/z 617.3 (M+H)+, 0.86 min (ret time).

reactant | N-[(3-bromo-4-chlorophenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}propanediamide | 1.791 mmol, 1.06 g | BrC=1C=C(C=CC1Cl)CNC(CC(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2)=O | C26H32BrClN6O3
reactant | (3-formylphenyl)boronic acid | 2.2 mmol, 0.330 g | C(=O)C=1C=C(C=CC1)B(O)O | C7H7BO3
reactant | sodium carbonate | 2.0 mmol, 0.212 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,4-dioxane | 12 mL | O1CCOCC1 | C4H8O2
solvent | water | 4 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | tetrakis (triphenylphosphine) palladium (0) | 0.08 mmol, 0.092 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | N-[(6-chloro-3′-formyl-3-biphenylyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}propanediamide | 752.4 mg, 68.1% | ClC1=CC=C(C=C1C1=CC(=CC=C1)C=O)CNC(CC(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2)=O | C33H37ClN6O4
